US06174889B1
N4-(1-(3-Fluoro-benzyl)-1H-indazol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride
Prepared according to Procedure A from 1-(3-Fluoro-benzyl)-1H-indazol-5-ylamine and 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.52 (1H,s), 8.90(1H,s), 8.60(1H,s), 8.24(1H,s), 8.14(1H,s), 7.85(2H,m), 7.70(1H,d), 7.49(1H,s) 7.10(3H,m), 5.72(2H,s), 3.19(6H,s); m/z (M+1+) 414.

reactant | 1-(3-Fluoro-benzyl)-1H-indazol-5-ylamine | FC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C14H12FN3
reactant | 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
product | N4-(1-(3-Fluoro-benzyl)-1H-indazol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride | Cl.FC=1C=C(CN2N=CC3=CC(=CC=C23)NC=2C3=C(N=CN2)C=NC(=C3)N(C)C)C=CC1 | InChI=1S/C23H20FN7.ClH/c1-30(2)22-10-19-20(12-25-22)26-14-27-23(19)29-18-6-7-21-16(9-18)11-28-31(21)13-15-4-3-5-17(24)8-15;/h3-12,14H,13H2,1-2H3,(H,26,27,29);1H
